US07939241B2
20 g of o-amino phenol was dissolved in 200 mL of N-methyl-2-pyrrolidone (NMP), and then the solution was ice-cooled. To the solution was added 8.546 g (1.1 times in mol) of lithium chloride. After lithium chloride was entirely dissolved, 17.42 g (1.05 times in mol) of acryloyl chloride was dropped into the solution, and the solution was stirred under ice-cooling for 5 hours. The reaction mixture was poured into 1.8 L of water, and an organic layer was extracted with 700 mL of diethyl ether. The diethyl ether layer was sequentially washed with 0.2 N hydrochloric acid, brine and water, and dried over magnesium sulfate. Diethyl ether was evaporated off under a reduced pressure. 80 mL of diisopropyl ether was added to the solidified residue, and the solution was heated and stirred to wash and filter the residue. The same washing process was carried out once again to obtain 10.2 g of N-(2-hydroxyphenyl)acrylamide as white powder (yield: 34%).

reactant | o-amino phenol | 20 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | lithium chloride | 8.546 g | [Cl-].[Li+]
reactant | acryloyl chloride | 17.42 g | C(C=C)(=O)Cl | C3H3ClO
reactant | water | 1.8 L | O | H2O
solvent | N-methyl-2-pyrrolidone | 200 mL | CN1C(CCC1)=O | C5H9NO
product | N-(2-hydroxyphenyl)acrylamide | 10.2 g, yield: 34% | OC1=C(C=CC=C1)NC(C=C)=O | C9H9NO2
